US08633183B2
A-2a) 6-Ethyl-3H-pyrimidin-4-one
90 g (0.58 mol) 4-Hydroxy-2-mercapto-6-ethyl pyrimidine and 270 g Raney-Nickel are suspended in water (1000 mL). The suspension is heated and stirred under reflux over night. Full conversion is detected by TLC (10% MeOH in DCM). The catalyst is filtered off over celite and the filtrate is evaporated to give crude product as a pale green solid (70.0 g; 98%). The product is used without further purification for the next step.

reactant | 4-Hydroxy-2-mercapto-6-ethyl pyrimidine | 0.58 mol, 90 g | OC1=NC(=NC(=C1)CC)S | C6H8N2OS
reactant | MeOH | CO | CH4O
solvent | water | 1000 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Raney-Nickel | 270 g | [Ni] | Ni
product | 6-Ethyl-3H-pyrimidin-4-one | 70.0 g, 98% | C(C)C1=CC(NC=N1)=O | C6H8N2O
